US06632824B2
2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]ethylamine
tert-Butyl 2-[3-(2-naphthyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]ethylcarbamate (0.50 g, 1.30 mmol) and 1 mL trifluoroacetic acid are stirred at 23 C in 20 mL CH2Cl2 for 2 h. The volatiles are evaporated, and the residue is partitioned between 50 mL of saturated aqueous NaHCO3 and 50 mL EtOAc. The aqueous layer is extracted with 2×25 mL EtOAc, and the combined organics are washed with 3×50 mL H2O, 1×50 mL brine, dried over MgSO4, filtered, and evaporated to give 0.22g (0.79 mmol, a 60% yield) of the title compound as an orange solid. mp: 62-65 C; MS (ES) m/z 279 (MH)+.

reactant | tert-Butyl 2-[3-(2-naphthyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]ethylcarbamate | 1.30 mmol, 0.50 g | C1=C(C=CC2=CC=CC=C12)C1=CC2CCC(C1)N2CCNC(OC(C)(C)C)=O | C24H30N2O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]ethylamine | 60% yield | C1=C(C=CC2=CC=CC=C12)C1=CC2CCC(C1)N2CCN | C19H22N2
